US08541457B2
Synthesis of 2-Benzoylaminothiazole-5-carboxylic Acid Benzylamide
A mixture of 2-benzoylaminothiazole-5-carboxylic acid methyl ester (0.40 g, 1.52 mmol), sodium cyanide (0.19 g, 3.79 mmol) and benzylamine (4 mL) was stirred at 80° C. for 70 h. The mixture was filtered, washed with ethyl ether, and the filtrate was concentrated in vacuo. The residue was dissolved in a mixture of methanol and tetrahydrofuran and aqueous lithium hydroxide solution (0.24 g in 6 mL water) was added. The mixture was stirred at 50° C. for 4 d. The organic solvents were removed in vacuo. The solid obtained was collected by filtration, washed with water, methanol and dried. The title compound was obtained as a white solid in 5% yield (0.005 g); 1H NMR (DMSO-d6, 300 MHz) δ 8.93 (s, 1H), 8.20-8.03 (m, 3H), 7.62-7.41 (m, 3H), 7.39-7.14 (m, 6H), 4.43 (d, J=3.9 Hz, 2H); MS (ES+) m/z 338.5 (M+1).

reactant | 2-benzoylaminothiazole-5-carboxylic acid methyl ester | 1.52 mmol, 0.40 g | COC(=O)C1=CN=C(S1)NC(C1=CC=CC=C1)=O | C12H10N2O3S
reactant | sodium cyanide | 3.79 mmol, 0.19 g | [C-]#N.[Na+]
reactant | benzylamine | 4 mL | C(C1=CC=CC=C1)N | C7H9N
product | 2-Benzoylaminothiazole-5-carboxylic Acid Benzylamide | 5% yield | C(C1=CC=CC=C1)NC(=O)C1=CN=C(S1)NC(C1=CC=CC=C1)=O | C18H15N3O2S
